US07342127B2
To a stirred solution of 2,6-dibromo-3-methyl-4-nitrophenol (2 g, 6.43 mmol) in CH2Cl2 (20 mL) at 0° C. was added Et3N (1.34 mL, 9.5 mmol) followed by dropwise addition of Tf2O (1.2 mL, 7 mmol). After warming to 20° C. and stirring 2 hr, the reaction was quenched with H2O . The organic layer was washed 1× with H2O and brine before drying over MgSO4. Without further purification, the resulting black oil, obtained after removal of the volatiles under vacuum, along with NaI (2 g, 13 mmol) was heated at 100° C. in DMF (15 mL) for 16 hr. Upon cooling, the reaction was diluted with Et2O, washed 2× with H2O and once with brine. After drying over MgSO4, the residue, obtained after removal of the volatiles under vacuum, was chromatographed on silica gel using 2-5% EtOAc/hexane as an eluent to yield 1.38 g of 3,5-dibromo-4-iodo-2-methylnitrobenzene (50%) as an off-white solid.

reactant | 2,6-dibromo-3-methyl-4-nitrophenol | 6.43 mmol, 2 g | BrC1=C(C(=CC(=C1C)[N+](=O)[O-])Br)O | C7H5Br2NO3
reactant | Et3N | 9.5 mmol, 1.34 mL | CCN(CC)CC | C6H15N
reactant | Tf2O | 7 mmol, 1.2 mL | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | NaI | 13 mmol, 2 g | [Na+].[I-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
product | 3,5-dibromo-4-iodo-2-methylnitrobenzene | 1.38 g, 50% | BrC=1C(=C(C=C(C1I)Br)[N+](=O)[O-])C | C7H4Br2INO2
